US05935951
a) Benzyl [1-(4-nitrobenzyl)but-3-enyl]carbamate
2-(4-Nitrobenzyl)pent-4-enoic acid (9.3 g, 40.0 mmol) is treated in toluene with 11.55 g (42.0 mmol) of diphenylphosphoryl azide at 50° C. in the presence of triethylamine (5.6 ml, 40.0 mmol) and benzyl alcohol (5.18 g, 48.0 mmol). After 20 minutes, the temperature is slowly increased and the mixture is then boiled under reflux for a further 3 hours. After cooling, the reaction mixture is washed twice with 1N sodium hydroxide solution, twice with 1N hydrochloric acid and twice with brine, dried over sodium sulfate and evaporated on a rotary evaporator. The title compound is obtained as white crystals after crystallization of the crude product from toluene/hexane. M.p.: 94-95° C. TLC: ethyl acetate/hexane (1:3) Rf =0.22.

reactant | 2-(4-Nitrobenzyl)pent-4-enoic acid | 40.0 mmol, 9.3 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)O)CC=C)C=C1 | C12H13NO4
reactant | diphenylphosphoryl azide | 42.0 mmol, 11.55 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 40.0 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 48.0 mmol, 5.18 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Benzyl [1-(4-nitrobenzyl)but-3-enyl]carbamate | [N+](=O)([O-])C1=CC=C(CC(CC=C)NC(OCC2=CC=CC=C2)=O)C=C1 | C19H20N2O4
